US08791102B2
A mixture of (S)-tert-butyl 1-(2-amino-4-(4-fluorophenoxy)phenylamino)-3-(benzyloxy)-1-oxopropan-2-ylcarbamate (610 mg, 1.23 mmol) and acetic acid (6 mL) was stirred at 60° C. for 1 hour. The acetic acid was remove under vacuum and the residue was dissolve in hydrogen chloride (4 mL, 4N in dioxane). The resulting solution was stirred at ambient temperature for 30 minutes and then concentration. Product was purified from the residue by PrepLC to give (R)-2-(benzyloxy)-1-(5-(4-fluorophenoxy)-1H-benzo[d]imidazol-2-yl)ethanamine (250 mg, 54%) as a pale yellow foam.

reactant | (S)-tert-butyl 1-(2-amino-4-(4-fluorophenoxy)phenylamino)-3-(benzyloxy)-1-oxopropan-2-ylcarbamate | 1.23 mmol, 610 mg | NC1=C(C=CC(=C1)OC1=CC=C(C=C1)F)NC([C@H](COCC1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C27H30FN3O5
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | (R)-2-(benzyloxy)-1-(5-(4-fluorophenoxy)-1H-benzo[d]imidazol-2-yl)ethanamine | 250 mg, 54% | C(C1=CC=CC=C1)OC[C@H](N)C1=NC2=C(N1)C=CC(=C2)OC2=CC=C(C=C2)F | C22H20FN3O2
